US04436892
1-(2,6-Dichlorobenzoyl)-4-phenyl-imidazole
2.88 g of 4-phenylimidazole are dissolved in 7 ml of tetrahydrofuran; a solution of 2.12 g of dichlorobenzoyl chloride in 5 ml of tetrahydrofuran is then added, and the mixture is heated, in the course of which 4-phenylimidazole hydrochloride precipitates. The mixture is diluted with 15 ml of tetrahydrofuran, and is filtered at room temperature in vacuo. The filtrate is subsequently evaporated to dryness in a rotary evaporator, and the residue is recrystallised from 15 ml of ethyl acetate. The yield is 1.55 g (48.9% of theory) of the desired product, m.p. 135°-136° C. By concentration of the mother liquor by evaporation and recrystallisation from 8 ml of benzene, there are obtained a further two fractions (0.76 g, m.p. 135°-136° C.; and 0.41 g, m.p. 134°-135° C.). The total yield is hence 2.72 g (85.8% of theory).

reactant | 4-phenylimidazole | 2.88 g | C1(=CC=CC=C1)C=1N=CNC1 | C9H8N2
reactant | dichlorobenzoyl chloride | 2.12 g | ClC=1C(=C(C(=O)Cl)C=CC1)Cl | C7H3Cl3O
reactant | 4-phenylimidazole hydrochloride | Cl.C1(=CC=CC=C1)C=1N=CNC1
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-(2,6-Dichlorobenzoyl)-4-phenyl-imidazole | ClC1=C(C(=O)N2C=NC(=C2)C2=CC=CC=C2)C(=CC=C1)Cl | C16H10Cl2N2O
